US04139538
(67) 4-Chloromethyl-5-methyl-5-phenyl oxazolidin-2-one
1.5 ml (10 mMole) of thionyl chloride are slowly added dropwise at 0° to +5° C to 1.04 g (5 mMole) of 4-hydroxymethyl-5-methyl-5-phenyl oxazolidin-2-one dissolved in 15 ml of pyridine. After 1 hour at 50° C, the reaction solution is stirred overnight at room temperature, poured onto ice and repeatedly extracted with chloroform. The combined chloroform phases dried over Na2SO4 are concentrated. The crystals formed are recrystallised from methanol.

reactant | thionyl chloride | 10 mMole, 1.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethyl-5-methyl-5-phenyl oxazolidin-2-one | 5 mMole, 1.04 g | OCC1NC(OC1(C1=CC=CC=C1)C)=O | C11H13NO3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-Chloromethyl-5-methyl-5-phenyl oxazolidin-2-one | ClCC1NC(OC1(C1=CC=CC=C1)C)=O | C11H12ClNO2
